US05726306
A mixture of 10 g of 2-acetylamino-5-chloro-2'-methoxybenzophenone and 100 ml of 47% hydrogen bromide was heated for 2 hours under reflux. The solution was rendered neutral with sodium hydroxide, and was subjected to extraction with 200 ml of ethyl acetate. The extract solution was washed with water and dried over anhydrous magnesium sulfate; the solvent was then distilled off under reduced pressure. The residue was purified by means of silica gel column chromatography (eluent, hexane:ethyl acetate=5:1) to yield 8.0 g of 2-amino-5-chloro-2'-hydroxybenzophenone as needles.

reactant | 2-acetylamino-5-chloro-2'-methoxybenzophenone | 10 g | C(C)(=O)NC1=C(C(=O)C2=C(C=CC=C2)OC)C=C(C=C1)Cl | C16H14ClNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrogen bromide | 100 ml | Br | BrH
product | 2-amino-5-chloro-2'-hydroxybenzophenone | 8.0 g | NC1=C(C(=O)C2=C(C=CC=C2)O)C=C(C=C1)Cl | C13H10ClNO2
